* /Users/torque/programs/spice-daemon/circuit_test2.asc
V1 vin 0 PWL file=vin_input.csv
R1 N001 vin 50
C1 N002 0 {C}
L1 N002 N001 {L}
R2 N002 vout 50
.tran 0 1 0 0.001 startup
.include param.txt
.include trancmd.txt
* setup block
.backanno
.end
